US04526719
To a solution of p-nitrophenyl 3-(2,3-dimethoxy-5-methyl-1,4-benzoquinon-6-yl)propionate (187 mg, 0.5 mmol) and glycine (37 mg, 0.5 mmol) in N,N-dimethylformamide (5 ml) was added N-ethylmorpholine (128 μ1, 1.0 mmol). The mixture was stirred at room temperature for 2 days. After completion of the reaction, the solvent was distilled off under reduced pressure and the residue was chromatographed on a Sephadex, LH20 column (1.5×90 cm, eluent: ethanol). The eluate was evaporated and the residue was crystallized from ethyl ether to give 3-(2,3-dimethoxy-5-methyl-1,4-benzoquinone-6-yl)propionyl-glycine (11 mg), melting at 128°-130° C. Rf=0.34 (Chloroform-methanol-acetic acid (18:2:1), silica gel plate) (briefly Rf1), Rf=0.52 (Ethyl acetate-pyridine-acetic acid-water (60:20:6:10, v/v, silica gel plate) (briefly Rf2).

reactant | p-nitrophenyl 3-(2,3-dimethoxy-5-methyl-1,4-benzoquinon-6-yl)propionate | 0.5 mmol, 187 mg | COC=1C(C(=C(C(C1OC)=O)C)CCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])=O | C18H17NO8
reactant | glycine | 0.5 mmol, 37 mg | NCC(=O)O | C2H5NO2
reactant | N-ethylmorpholine | 1.0 mmol | C(C)N1CCOCC1 | C6H13NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-(2,3-dimethoxy-5-methyl-1,4-benzoquinone-6-yl)propionyl-glycine | 11 mg | COC=1C(C(=C(C(C1OC)=O)C)CCC(=O)NCC(=O)O)=O | C14H17NO7
